US06255318B1
Compound #62 Thiazolo[5,4-c]pyridine-2-carboxylic acid(1(S)-phenyl-ethyl)amide
To a solution of thiazolo [5,4-c]pyridine-2-carboxylic acid ethyl ester (16 mg, 0.08 mmol) and 1(S)-phenyl ethyl amine (0.03 mL, 0.23 mmol)in dichloromethane(0.3 mL) was added a solution of trimethylaluminum in hexane(0.115 mL, 2.0 M., 0.23 mmol). The solution was then stirred for 5 hours at room temperature. After usual work-up, the product was purified by flash chromatography (CH2Cl2/EtOAc 1:1)and triturated in hexane to give 12 mg of the thiazolo derivative.

reactant | thiazolo [5,4-c]pyridine-2-carboxylic acid ethyl ester | 0.08 mmol, 16 mg | C(C)OC(=O)C=1SC=2C=NC=CC2N1 | C9H8N2O2S
reactant | 1(S)-phenyl ethyl amine | 0.23 mmol, 0.03 mL | C1(=CC=CC=C1)[C@H](C)N | C8H11N
reactant | trimethylaluminum | C[Al](C)C
reactant | hexane | 0.23 mmol, 2.0 M, 0.115 mL | CCCCCC | C6H14
solvent | dichloromethane | 0.3 mL | ClCCl | CH2Cl2
product | Thiazolo[5,4-c]pyridine-2-carboxylic acid(1(S)-phenyl-ethyl)amide | C1(=CC=CC=C1)[C@H](C)NC(=O)C=1SC=2C=NC=CC2N1 | C15H13N3OS
